US07335658B2
SYNTHESIS of {6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}CARBAMIC ACID BUTYL ESTER
To a stirred solution of [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethyl-phenyl)methanone (100 mg, 0.285 mmol) in dichloromethane (5 mL) was added n-butyl chloroformate (0.285 mmol) in the presence of triethylamine (0.313 mmol) at 0° C. The resulting mixture was stirred at ambient temperature for 24 h and then quenched with water (10 mL). The organic phase was washed with water, saturated NaCl, dried over MgSO4 and then concentrated in vacuo to afford the desired product as a white solid (0.095 g, 74% yield). 1H NMR (500 MHz, CDCl3) δ 8.10, 7.73, 7.63, 7.55, 7.36, 7.04, 4.19, 3.96-4.02, 3.89-3.95, 3.61-3.66, 3.52-3.56, 3.32, 1.64-1.70, 1.38-1.46, 0.95.

reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethyl-phenyl)methanone | 0.285 mmol, 100 mg | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
reactant | n-butyl chloroformate | 0.285 mmol | ClC(=O)OCCCC | C5H9ClO2
reactant | triethylamine | 0.313 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | {6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}CARBAMIC ACID BUTYL ESTER | 0.095 g, 74% yield | C(CCC)OC(NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C21H24F3N5O3
